US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.087 g, 0.313 mmol) was reacted with N-(2-azidoethyl)palmitamide (0.102 g, 0.313 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-palmitamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.29 (s, 1H), δ 6.78 (t, 1H), δ 6.41 (s, 1H), δ 6.19 (s, 2H), δ 4.39 (t, 2H), δ 3.67 (q, 2H), δ 2.61 (t, 2H), δ 2.12 (t, 2H), δ 2.07 (t, 2H), δ 1.42 (m, 13H), δ 1.42 (m, 2H), δ 1.32 (m, 22H), 0.81 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 176.8, 174.3, 173.9, 149.5, 148.3, 121.9, 106.4, 85.0, 67.2, 51.1, 49.5, 39.5, 39.1, 38.1, 36.8, 36.7, 32.1, 29.9, 29.8, 29.7, 29.6, 29.5, 29.3, 28.9, 28.3, 28.2, 27.9, 25.9, 25.6, 22.9, 14.3 ppm; HRMS (ESI) calcd for C33H59N7O3 (M+) 601.4679. found 601.4671, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)palmitamide hydrochloride (0.155 g, 92% yield). 1H NMR (300 MHz, CD3OD) δ 8.59 (s, 1H), δ 6.53 (s, 1H), δ 4.72 (s, 2H), δ 3.75 (S, 2H), δ 2.90 (s, 2H), δ 2.54 (s, 2H), δ 2.16 (t, 2H), δ 1.80 (s, 2H), δ 1.69 (s, 2H), δ 1.51 (s, 4H), δ 1.28 (bs, 24H), δ 0.71 (t, 3H) ppm; 13C NMR (75 MHz, CD3OD) δ 175.7, 147.2, 145.6, 128.4, 127.6, 108.6, 67.2, 52.7, 37.4, 36.5, 35.8, 31.9, 29.7, 29.5, 29.4, 29.2, 28.0, 27.9, 27.8, 27.7, 25.8, 24.1, 23.6, 23.2, 22.6 ppm; HRMS (ESI) calcd for C28H51N7O (M+) 501.4155. found 501.4143.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.313 mmol, 0.087 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)palmitamide | 0.313 mmol, 0.102 g | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCCCC)=O | C18H36N4O
product | tert-butyl 2-amino-4-(5-(1-(2-palmitamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(CCCCCCCCCCCCCCC)=O)C(=O)OC(C)(C)C | C33H59N7O3
